US07465811B2
5-Cyano-2-pyridineacetic acid 1,1-dimethylethyl ester
0.715 g (10 mmol) of zinc, a few flakes of iodine and 0.845 ml (5.4 mmol) of t-butyl bromoacetate in 10 ml of THF are introduced into a microwave reactor. The mixture is heated by microwaves for 5 min at 110° C. and then filtered and added to a solution of 0.5 g (2.7 mmol) of 6-bromo-3-pyridinecarbonitrile in 15 ml of THF. 316 mg of tetrakis(triphenylphosphine)palladium are added and the reaction mixture is heated by microwaves at 120° C. for 5 min, with stirring, and then cooled, diluted with ammonium chloride solution and extracted with ethyl acetate. The organic phase is washed with water and then dried over magnesium sulfate and concentrated under reduced pressure. The crude product obtained is purified by chromatography on silica gel using a methylcyclohexane/ethyl acetate mixture (9/1; v/v) as the eluent to give 254 mg of the expected product in the form of a yellow solid (yield=43%).

reactant | iodine | II | I2
reactant | t-butyl bromoacetate | 5.4 mmol, 0.845 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 6-bromo-3-pyridinecarbonitrile | 2.7 mmol, 0.5 g | BrC1=CC=C(C=N1)C#N | C6H3BrN2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | zinc | 10 mmol, 0.715 g | [Zn] | Zn
catalyst | tetrakis(triphenylphosphine)palladium | 316 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Cyano-2-pyridineacetic acid 1,1-dimethylethyl ester | 254 mg | CC(C)(C)OC(CC1=NC=C(C=C1)C#N)=O | C12H14N2O2
